US07238714B2
Step 1. Methyl 5-chloro-2-(4-fluorophenoxy)benzoate
To a stirred solution of 4-fluorophenol (1.60 g, 14.3 mmol) and sodium hydride (0.34 g, 14.3 mmol) in N,N-dimethylforamide (30 mL) was added a solution of methyl 5-chloro-2-fluorobenzoate (2.70 g, 14.3 mmol) in N,N-dimethylforamide (30 mL) at 0° C. The resulting mixture was heated at 120° C. for 16 h. After cooling to room temperature, the mixture was diluted with ether (300 mL) and washed with water (150 mL×3). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by flush column chromatography on silica gel eluting with hexane/ethyl acetate (20:1) to afford 2.60 g (65%) of the title compounds as slight yellow oil: 1H-NMR (CDCl3) δ 7.88 (1H, d, J=2.8 Hz), 7.40 (1H, dd, J=8.8, 2.8 Hz), 7.06–6.85 (5H, m), 3.84 (3H, s).

reactant | 4-fluorophenol | 14.3 mmol, 1.60 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | sodium hydride | 14.3 mmol, 0.34 g | [H-].[Na+]
reactant | methyl 5-chloro-2-fluorobenzoate | 14.3 mmol, 2.70 g | ClC=1C=CC(=C(C(=O)OC)C1)F | C8H6ClFO2
solvent | N,N-dimethylforamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylforamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ether | 300 mL | CCOCC | C4H10O
product | Methyl 5-chloro-2-(4-fluorophenoxy)benzoate | 2.60 g, 65% | ClC=1C=CC(=C(C(=O)OC)C1)OC1=CC=C(C=C1)F | C14H10ClFO3
